US04297499
Dichlorosilane in an amount of 60.6 g (0.6 mol), 176.4 g of 1-octadecene (0.7 mol) and 0.07 mol % of RhCl(PPh)3 (relative to dichlorosilane) were charged in a 500 ml pressure-proof stainless steel reactor. After sealing, reaction was carried out at 130° C. for 30 hours. The reacted liquid was distilled in vacuo to give n-octadecyldichlorosilane (n--C18H37SiHCl2).

reactant | Dichlorosilane | Cl[SiH2]Cl | Cl2H2Si
reactant | 1-octadecene | 0.7 mol, 176.4 g | C=CCCCCCCCCCCCCCCCC | C18H36
product | n-octadecyldichlorosilane | C(CCCCCCCCCCCCCCCCC)[SiH](Cl)Cl | C18H38Cl2Si
